US08912186B2
4-Chloro-1,2-phenylenediamine (285 mg) and 2-(4-chlorophenyl)maleic anhydride (420 mg) were dissolved in dichloromethane (4 ml) with heating. The dark solution was stirred at rt for 1 h. The solvent was removed in vacuo and the residue was dissolved in 1M HCl in acetic acid (4 ml). The solution was heated to reflux for 1 h, treated with charcoal, and filtered. From the filtrate the solvent was removed and the residue crystallised from acetone/ethyl acetate to give 3-(5-chloro-2-benzimidazolyl)-2-(4-chlorophenyl)propanoic acid HCl (130 mg) as light orange solid.

reactant | 4-Chloro-1,2-phenylenediamine | 285 mg | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | 2-(4-chlorophenyl)maleic anhydride | 420 mg | ClC1=CC=C(C=C1)/C=1/C(=O)OC(\C1)=O | C10H5ClO3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 3-(5-chloro-2-benzimidazolyl)-2-(4-chlorophenyl)propanoic acid HCl | 130 mg | Cl.ClC1=CC2=C(N=C(N2)CC(C(=O)O)C2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C16H12Cl2N2O2.ClH/c17-10-3-1-9(2-4-10)12(16(21)22)8-15-19-13-6-5-11(18)7-14(13)20-15;/h1-7,12H,8H2,(H,19,20)(H,21,22);1H
